US07589232B2
Step a) Formation of methyl 4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]methyl}benzoate
The titled compound was prepared following the procedure E using methyl 4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]benzoate and hexanoyl chloride as a colorless oil (69%). 1H NMR (CDCl3, 300 MHz) δ 8.03 (d, 1H), 7.97 (d, 1H), 7.54-7.40 (m, 4H). 7.27-7.09 (m, 6H), 4.62 (m, 2H), 4.46 (m, 2H), 3.92 (m, 3H), 2.62 (t, 2H), 2.40 (m, 2H), 1.77-1.54 (m, 4H), 1.43-1.23 (m, 6H), 0.96-0.83 (m, 6H). M+ (ESI): 510.4. HPLC, Rt: 6.25 min (Purity: 100%).

reactant | methyl 4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]benzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNCC2=CC=C(C(=O)OC)C=C2)C=C1 | C28H29NO2
reactant | hexanoyl chloride | C(CCCCC)(=O)Cl | C6H11ClO
product | methyl 4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]methyl}benzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCCCC)=O)CC2=CC=C(C(=O)OC)C=C2)C=C1 | C34H39NO3
